US06503907B2
To 1.62 g (3.7 mmol) Trifluoro-methanesulfonic acid 1-(4-trimethylsilanylethynyl-phenyl)-1H-indol-5-yl ester in 5 ml piperidine, 230 mg (0.2 mmol) tetrakis-(triphenylphosphine)-palladium and 40 mg (0.2 mmol) CuI were added. The solution was evaporated and purged with argon three times, before 0.56 ml (6 mmol) 4-pentyn-1-ol were added. The solution was stirred at 80° C. for 2 h. The solution was concentrated and the residue dissolved in 0.5M HCl and ether. The inorganic phase was extracted with ether, the organic phases were washed with water and dried over Na2SO4. Purification on silica gel with CH2Cl2 yielded 980 mg (71%) 5-[1-(4-Trimethylsilanylethynyl-phenyl)-1H-indol-5-yl]-pent-4-yn-1-ol as orange viscous oil, MS: 371 (M).

reactant | Trifluoro-methanesulfonic acid 1-(4-trimethylsilanylethynyl-phenyl)-1H-indol-5-yl ester | 3.7 mmol, 1.62 g | C[Si](C)(C)C#CC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F | C20H18F3NO3SSi
reactant | 4-pentyn-1-ol | 6 mmol, 0.56 ml | C(CCC#C)O | C5H8O
solvent | piperidine | 5 ml | N1CCCCC1 | C5H11N
catalyst | tetrakis-(triphenylphosphine)-palladium | 0.2 mmol, 230 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | CuI | 0.2 mmol, 40 mg | [Cu]I
product | 5-[1-(4-Trimethylsilanylethynyl-phenyl)-1H-indol-5-yl]-pent-4-yn-1-ol | 980 mg, 71% | C[Si](C)(C)C#CC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)C#CCCCO | C24H25NOSi
